US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (0.63 mL) was added to a solution mixture of the obtained methyl 2-(benzyloxy)-4-(1H-imidazol-1-yl)benzoate (0.13 g) in dioxane (0.65 mL) and methanol (0.65 mL), followed by stiffing at room temperature for 3 hours. Under ice-cooling, 6 mol/L hydrochloric acid (0.21 mL) was added to the reaction mixture, and the solvent was evaporated under reduced pressure. Water was added to the obtained residue, and the solid substance was collected by filtration. Dioxane (1 mL) and a 4 mol/L hydrogen chloride-dioxane solution (0.5 mL) were added to the obtained solid substance, followed by stirring at room temperature for 1 hour. The solid substance was collected from the reaction mixture by filtration to obtain 0.097 g of 2-(benzyloxy)-4-(1H-imidazol-1-yl)benzoic acid hydrochloride as a white solid.

reactant | sodium hydroxide | 0.63 mL | [OH-].[Na+]
reactant | methyl 2-(benzyloxy)-4-(1H-imidazol-1-yl)benzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)N1C=NC=C1 | C18H16N2O3
reactant | hydrochloric acid | 6 mol/L, 0.21 mL | Cl | ClH
solvent | dioxane | 0.65 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.65 mL | CO | CH4O
product | 2-(benzyloxy)-4-(1H-imidazol-1-yl)benzoic acid hydrochloride | 0.097 g | Cl.C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)N1C=NC=C1 | InChI=1S/C17H14N2O3.ClH/c20-17(21)15-7-6-14(19-9-8-18-12-19)10-16(15)22-11-13-4-2-1-3-5-13;/h1-10,12H,11H2,(H,20,21);1H
